US06433211B1
m-Cyanobenzamide (73.0 g, 0.5 mol) which has a purity of 99% or more and methanol (460.3 g) were placed in a 2 l-separable flask, and the mixture was allowed to react at 64° C. for 12 hours while a 20% hydrochloric acid/methanol solution (162.4 g) prepared in advance was added thereto with stirring. Gas chromatographic analysis revealed that the reaction mixture contained 74.9 g of methyl p-cyanobenzoate (yield 93%).

reactant | m-Cyanobenzamide | 0.5 mol, 73.0 g | C(#N)C=1C=C(C(=O)N)C=CC1 | C8H6N2O
reactant | hydrochloric acid methanol | 162.4 g | Cl.CO
reactant | methanol | 460.3 g | CO | CH4O
product | methyl p-cyanobenzoate | 74.9 g, yield 93% | C(#N)C1=CC=C(C(=O)OC)C=C1 | C9H7NO2
